US07452911B2
3.5c 5-(4-chloro-phenyl)-2-[3-methoxy-4-(2-pyrrolidin-1-yl-ethoxy)-phenylethynyl]-pyridine
Prepared according to general working method I from 1-[2-(4-iodo-2-methoxy-phenoxy)-ethyl]-pyrrolidine (300 mg, 0.86 mmol) and 5-(4-chloro-phenyl)-2-ethynyl-pyridine (194 mg, 0.91 mmol).

reactant | 1-[2-(4-iodo-2-methoxy-phenoxy)-ethyl]-pyrrolidine | 0.86 mmol, 300 mg | IC1=CC(=C(OCCN2CCCC2)C=C1)OC | C13H18INO2
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 0.91 mmol, 194 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 5-(4-chloro-phenyl)-2-[3-methoxy-4-(2-pyrrolidin-1-yl-ethoxy)-phenylethynyl]-pyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC(=C(C=C1)OCCN1CCCC1)OC | C26H25ClN2O2
